US04640707
A mixture of 6-amino-7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (0.31 g), 3,4,5,6-tetrahydrophthalic anhydride (0.28 g) and acetic acid (3 ml) was heated under reflux for 2 hours. After being allowed to cool, water was added to the mixture, which was then extracted with ethyl acetate. The organic layer was washed with water, neutralized with sodium bicarbonate solution, dried and concentrated. The residue was purified by silica gel thin layer chromatography using a mixture of ethyl acetate and hexane (1:2) as an eluent to give 2-[7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.12 g). m.p., 196.0° C.

reactant | 6-amino-7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 0.31 g | NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F | C11H9FN2O2
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.28 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.12 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(C=2CCCCC2C1=O)=O | C19H15FN2O4
